US07696215B2
To a stirred solution of 6-iodo-3-[5-(methoxycarbonyl)-2-methylphenyl]-4-oxo-3,4-dihydroquinazoline-8-carboxylic acid (2.4 g) in 1,4-dioxane (50 ml) was added pyridine (0.42 ml), di-tert-butyl dicarbonate (1.47 g) and NH4HCO3 (0.53 g). The reaction mixture was stirred at 40° C. for 18 hours and concentrated. The resultant white solid was washed with methanol and dried to yield methyl 3-[8-(aminocarbonyl)-6-iodo-4-oxoquinazolin-3(4H)-yl]-4-methylbenzoate as a white solid (2.28 g); NMR Spectrum: (DMSOd6) 2.19 (s, 3H), 3.85 (s, 3H), 7.61 (d, 1H), 8.03 (m, 3H), 8.52 (s, 1H), 8.60 (m, 1H), 8.70 (m, 1H), 9.33 (s, 1H); Mass Spectrum: M+H+ 464.

reactant | 6-iodo-3-[5-(methoxycarbonyl)-2-methylphenyl]-4-oxo-3,4-dihydroquinazoline-8-carboxylic acid | 2.4 g | IC=1C=C2C(N(C=NC2=C(C1)C(=O)O)C1=C(C=CC(=C1)C(=O)OC)C)=O | C18H13IN2O5
reactant | pyridine | 0.42 ml | N1=CC=CC=C1 | C5H5N
reactant | di-tert-butyl dicarbonate | 1.47 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | methyl 3-[8-(aminocarbonyl)-6-iodo-4-oxoquinazolin-3(4H)-yl]-4-methylbenzoate | 2.28 g | NC(=O)C=1C=C(C=C2C(N(C=NC12)C=1C=C(C(=O)OC)C=CC1C)=O)I | C18H14IN3O4
